US04405636
2. Methyl 2-methoxy-4-amino-5-sulfo-benzoate
75 liters of methanol is placed in a 100 liter reactor. It is agitated and 24.5 kg of finely ground methyl 2-methoxy-4-acetamino-5-sulfobenzoate is added. The sulfonic acid dissolves; the deacetylated derivative crystallises shortly afterwards. The reaction mixture is left at room temperature for 24 hours, with agitation, so as to complete precipitation. The product is drained in a centrifugal drier, washed twice, with 6 liters of methyl alcohol each time, and dried in a ventilated oven at 50° C.; it has the following properties:

reactant | methyl 2-methoxy-4-acetamino-5-sulfobenzoate | COC1=C(C(=O)OC)C=C(C(=C1)NC(=O)C)S(=O)(=O)O | C11H13NO7S
solvent | methanol | 75 liters | CO | CH4O
product | Methyl 2-methoxy-4-amino-5-sulfo-benzoate | COC1=C(C(=O)OC)C=C(C(=C1)N)S(=O)(=O)O | C9H11NO6S
